### PR TITLE
[Merged by Bors] - feat(Algebra/Group/Subgroup): map_equiv_top

### PR DESCRIPTION
**Pull request by pechersky**
also remove simp from `map_to_of_surjective` because it doesn't fire even on this new lemma

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Subgroup/Map.lean [hunk 1]
```diff
@@ -253,13 +253,19 @@ theorem map_inf_eq (H K : Subgroup G) (f : G →* N) (hf : Function.Injective f)
...
+@[to_additive]
 theorem map_top_of_surjective (f : G →* N) (h : Function.Surjective f) : Subgroup.map f ⊤ = ⊤ := by
   rw [eq_top_iff]
   intro x _
   obtain ⟨y, hy⟩ := h x
   exact ⟨y, trivial, hy⟩
 
+@[to_additive (attr := simp)]
+lemma map_top_of_mulEquivClass {G N F : Type*} [Group G] [Group N]
+    [EquivLike F G N] [MulEquivClass F G N] (f : F) :
```
Comment (Vierkantor) [inline Mathlib/Algebra/Group/Subgroup/Map.lean:265]: `G` and `N` are already in scope here, so we don't need to redeclare them.

Not sure I like the `of_mulEquivClass` in the title, that seems quite unwieldy. Maybe something like this? It would match the `Submonoid` result.
```suggestion
lemma map_equiv_top {F : Type*} [EquivLike F G N] [MulEquivClass F G N] (f : F) :
```

**Review by Vierkantor — COMMENTED** [review]
Agreed that the `simp` attribute seems unnecessary here. That would be better handled by something more specialized.

Looks like each subobject has its own collection of `map_top` results, which we should really make consistent. (In another PR.)
